US04904657
A mixture of 1.44 g of 3-cyano-1-ethoxycarbonyl- 2-methylthio-4H-quinolizin-4-one and 5.0 ml of piperidine in 10 ml of acetonitrile was heated under reflux for 10 hours. The reaction mixture was concentrated under reduced pressure and the residue was chromatographed on a silica gel column using a mixed solvent of ethyl acetate and n-hexane (2:1) as an eluent to obtain 0.95 g of 3-cyano-1-ethoxycarbonyl-2-piperidino-4H-quinolizin-4-one.

reactant | 3-cyano-1-ethoxycarbonyl- 2-methylthio-4H-quinolizin-4-one | 1.44 g | C(#N)C1=C(C(=C2C=CC=CN2C1=O)C(=O)OCC)SC | C14H12N2O3S
reactant | piperidine | 5.0 ml | N1CCCCC1 | C5H11N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-cyano-1-ethoxycarbonyl-2-piperidino-4H-quinolizin-4-one | 0.95 g | C(#N)C1=C(C(=C2C=CC=CN2C1=O)C(=O)OCC)N1CCCCC1 | C18H19N3O3
